US05061717
4-(Bromomethyl)benzenesulfonyl Chloride
p-Toluenesulfonyl chloride (0.52 mol, 100 g), N-bromosuccinimide (0.62 mol, 110.3 g), and benzoyl peroxide (5 g) were heated to reflux in carbon tetrachloride (500 ml) for 1 hour. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was triturated with isopropyl ether to afford 40.1 g of title product as a white solid; m.p. 70°-73° C.

reactant | p-Toluenesulfonyl chloride | 0.52 mol, 100 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N-bromosuccinimide | 0.62 mol, 110.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(Bromomethyl)benzenesulfonyl Chloride | 40.1 g | BrCC1=CC=C(C=C1)S(=O)(=O)Cl | C7H6BrClO2S
